US07696240B2
1-Naphthalen-1-ylmethyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid
Using general procedure B, 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester (Adams, David Reginald et al., PCT Int. Appl. (2000), WO2000044753) was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 301.3 ([M−H]−)

reactant | 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=NC=CC2)N1 | C10H10N2O2
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 1-Naphthalen-1-ylmethyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | C1(=CC=CC2=CC=CC=C12)CN1C(=CC=2C1=NC=CC2)C(=O)O | C19H14N2O2
